US07915443B2
(S)-5-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]pentanoic acid
To the solution of (S)-Methyl 5-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]pentanoate (120 mg, 0.2 mmol) in THF (4 mL) at 0° C. was added dropwise a solution of aqueous NaOH (0.5 N, 2.0 mL). After the reaction mixture was stirred at 0° C. for 2 hours, 2 N HCl was carefully added to adjust the pH˜5 followed by a partition between aqueous NH4Cl and EtOAc. The EtOAc layer was further washed with brine once and dried with anhydrous sodium sulfate. The organic layer was decanted, concentrated and subject to a gradient column chromatography (from EtOAc to MeOH-EtOAc 1:5) yielding the title compound as white foam in amount of (85 mg, 73%).

reactant | (S)-Methyl 5-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]pentanoate | 0.2 mmol, 120 mg | CN1N=C(C=C1C(=O)NC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=[S@@](=O)(C1=CC=CC=C1)CCCCC(=O)OC)C | C32H31N5O5S
reactant | NaOH | 0.5 N, 2.0 mL | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (S)-5-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]pentanoic acid | CN1N=C(C=C1C(=O)NC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=[S@@](=O)(C1=CC=CC=C1)CCCCC(=O)O)C | C31H29N5O5S
